US06191124B1
A solution 2-amino-4-methylthiazole (Formula C-1)(11.4 g) in toluene (100 ml) at 25° was treated with dimethylformamide dimethyl acetal (15.9 mL, 200 mmol), dropwise over five minutes. The mixture was heated to reflux temperature for 22 hours. The reaction was cooled to 25° and the solvent evaporated to an orange oil (17 g). The oil was triturated with hexane to yield yellow crystals. Recrystallization from warm hexane gave N′-(4-Methyl-2-thiazolyl)-N,N-dimethyl-methanimidamide (Formula C-2) (16.9 g, 99.6%), m.p. 54-56°.

reactant | 2-amino-4-methylthiazole | 11.4 g | NC=1SC=C(N1)C | C4H6N2S
reactant | dimethylformamide dimethyl acetal | 200 mmol, 15.9 mL | COC(N(C)C)OC | C5H13NO2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N′-(4-Methyl-2-thiazolyl)-N,N-dimethyl-methanimidamide | 16.9 g, 99.6% | CC=1N=C(SC1)N=CN(C)C | C7H11N3S
